US07635684B2
A mixture of 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-hydroxyphenyl)methyl]-5-isopropyl-1H-pyrazole (0.55 g), (R)-1-(3-nitrobenzenesulfonyloxy)-2,3-epoxypropane (0.38 g) and cesium carbonate (0.57 g) in N,N-dimethylformamide (5 mL) was stirred at room temperature for 24 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine successively, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(R)-2,3-epoxypropoxy]phenyl}methyl)-5-isopropyl-1H-pyrazole (0.4 g). This material (43 mg) was dissolved in ethanol (1.5 mL). To the solution was added 2-amino-2-methyl-1,3-propanediol (51 mg), and the mixture was stirred at 75° C. for 14 hours. To the reaction mixture was added 1 mol/L aqueous sodium hydroxide solution (0.28 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was directly purified by preparative reverse phase column chromatography (Shiseido CAPCELL PAK UG120 ODS, 5 μm, 120 Å, 20×50 mm, flow rate 30 mL/minute linear gradient, water/methanol 90/10-10/90) to give the title compound (12 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-[(4-hydroxyphenyl)methyl]-5-isopropyl-1H-pyrazole | 0.55 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)O)C(C)C | C27H34N2O11
reactant | (R)-1-(3-nitrobenzenesulfonyloxy)-2,3-epoxypropane | 0.38 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)OC[C@H]1CO1 | C9H9NO6S
reactant | cesium carbonate | 0.57 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-4-({4-[(R)-2,3-epoxypropoxy]phenyl}methyl)-5-isopropyl-1H-pyrazole | 0.4 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=CC=C(C=C1)OC[C@H]1CO1)C(C)C | C30H38N2O12
